US07030063B1
Step a) Methyl 8-hydroxy-5-quinolincarboxylate
16.25 g (86 mmol) of 8-hydroxy-5-quinolinecarboxylic acid were dissolved in 70 ml of methanol, 3 ml of concentrated sulfuric acid were added and the mixture was heated under reflux for 25 hours. The solvent was then removed and the residue was taken up in ice-water, adjusted to a pH of 8 using sodium carbonate solution and filtered hot. The residue was extracted with methyl-tert-butyl ether for 7 hours on a jacketed Soxhlet extractor, and the solvent was subsequently removed from the extract. This gave 6.8 g of a brown powder;

reactant | 8-hydroxy-5-quinolinecarboxylic acid | 86 mmol, 16.25 g | OC1=CC=C(C=2C=CC=NC12)C(=O)O | C10H7NO3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 70 ml | CO | CH4O
product | Methyl 8-hydroxy-5-quinolincarboxylate | OC1=CC=C(C=2C=CC=NC12)C(=O)OC | C11H9NO3
